US04387103
n-Propyl 3-[4-(2,3-Epoxypropoxy)phenyl]propionate
A mixture of 9 g (0.04 mole) of n-propyl 3-(4-hydroxyphenyl)propionate, 10 g (0.08 mole) of K2CO3 and 12 mL (0.15 mole) of epichlorohydrin in 150 mL of acetone was stirred and heated to reflux for 20 hours. The reaction medium was then filtered and evaporated under reduced pressure. The resulting oil was taken up in 100 mL toluene and washed consecutively with 50 mL water 2×50 mL of 1 N NaOH and 2×50 mL of water. The toluene phase was then dried over MgSO4 and evaporated under reduced pressure to provide 3 g (30%) of a clear oil which was used directly in the next step without additional purification. The IR and NMR spectra of the reaction product were consistent with the assigned structure.

reactant | n-propyl 3-(4-hydroxyphenyl)propionate | 0.04 mole, 9 g | OC1=CC=C(C=C1)CCC(=O)OCCC | C12H16O3
reactant | K2CO3 | 0.08 mole, 10 g | C(=O)([O-])[O-].[K+].[K+]
reactant | epichlorohydrin | 0.15 mole, 12 mL | C(Cl)C1CO1 | C3H5ClO
solvent | acetone | 150 mL | CC(=O)C | C3H6O
product | n-Propyl 3-[4-(2,3-Epoxypropoxy)phenyl]propionate | 3 g, 30% | O1C(COC2=CC=C(C=C2)CCC(=O)OCCC)C1 | C15H20O4
